US07238720B2
a) 2-Methylimidazo[1,2-a]pyridine
A mixture of 2-aminopyridine (9.4 g), chloroacetone (9.5 ml), and ethanol (25 ml) was heated and stirred for 5 hours on an oil bath at 100° C. After that, the reaction solution was concentrated under reduced pressure, and extracted with ethyl acetate-aqueous potassium carbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to a column chromatography using NH silica gel with 20 to 30% ethyl acetate/hexane to yield the title compound (5.5 g).

reactant | 2-aminopyridine | 9.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | chloroacetone | 9.5 ml | ClCC(C)=O | C3H5ClO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-Methylimidazo[1,2-a]pyridine | 5.5 g | CC=1N=C2N(C=CC=C2)C1 | C8H8N2
